US09193689B2
3-(4-Bromo-phenyl)-5-methyl-2H-isoquinolin-1-one (200 mg, 0.64 mmol), zinc cyanide (90 mg, 0.76 mmol) and tetrakis(triphenylphosphine)palladium(0) (74 mg, 0.064 mmol) were stirred in DMF (2.1 mL) and degassed with N2. The reaction mixtures were irradiated using a microwave (300 W, 180° C., 30 min). The reaction mixtures were combined and the resulting precipitate was filtered, washed with DMF and water and dried to give 4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-benzonitrile as a yellowish solid (718 mg, 79%) which was used in the next step without further purification.

reactant | 3-(4-Bromo-phenyl)-5-methyl-2H-isoquinolin-1-one | 0.64 mmol, 200 mg | BrC1=CC=C(C=C1)C=1NC(C2=CC=CC(=C2C1)C)=O | C16H12BrNO
reactant | DMF | 2.1 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.76 mmol, 90 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.064 mmol, 74 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-benzonitrile | 718 mg, 79% | CC1=C2C=C(NC(C2=CC=C1)=O)C1=CC=C(C#N)C=C1 | C17H12N2O
